US04950793
Into a mixture of 6.6 ml of chlorosulfonic acid, 6 ml of antimony pentafluoride and 10 ml of monochloroacetic acid, was added 8.9 ml of benzene at 25° C., and the mixture was stirred for 3 hours. The reaction mixture was transferred into ice water and the precipitated product was extracted with benzene. From the results of analysis, it was confirmed that benzene-sulfonyl chloride and diphenylsulfone were formed in yields of 50% and 20%, respectively, based on benzene.

reactant | chlorosulfonic acid | 6.6 ml | ClS(=O)(=O)O | ClHO3S
reactant | antimony pentafluoride | 6 ml | [Sb](F)(F)(F)(F)F
reactant | monochloroacetic acid | 10 ml | ClCC(=O)O | C2H3ClO2
reactant | benzene-sulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | benzene | 8.9 ml | C1=CC=CC=C1 | C6H6
product | diphenylsulfone | C1(=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10O2S
